US07091199B1
Preparation of pyridin-3-ylmethyl-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 3-(aminomethyl)pyridine and acetonitrile essentially as described above in example 18 except that the Waters Sep-Pak filtration is eluted with 10% methanol in dichloromethane and the column is eluted using a graded solvent mixture of 2% methanol in dichloromethane, to 6% methanol in dichloromethane. Purity by LC/MS (APCI)=100%, [M+H]+=352.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
solvent | acetonitrile | C(C)#N | C2H3N
product | pyridin-3-ylmethyl-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | N1=CC(=CC=C1)CNCCOC1=CC(=CC=C1)C1=NOC2=C1SC=C2 | C19H17N3O2S
